data/mechanism_extracts/OrgLett/10.1021_acs.orglett.3c00310.json
{"doi": "10.1021_acs.orglett.3c00310", "journal": "OrgLett", "is_review": false, "rxn_class_summary": "Electrochemical difluoromethylation of electron-rich olefins (enamides and styrenes) using HCF2SO2Na as the CF2H radical source in an undivided cell, giving (E)-difluoromethylated enamides or β-hydroxy-difluoromethylated styrene products.", "mechanism_family": ["radical_anodic", "radical_polar_crossover", "paired_electrolysis"], "electrochemical_role": "Anodic oxidation of CF2HSO2Na (sodium difluoromethanesulfinate) generates the CF2H radical via loss of SO2; a second anodic oxidation of the alkyl radical adduct gives a benzylic/α-aminocarbocation; cathode reduces H+ to H2.", "key_intermediates": [{"name": "CF2H radical (from anodic oxidation of HCF2SO2- and loss of SO2)", "smiles": "[CH]F F", "role": "reactive"}, {"name": "α-amino/benzylic C-radical I from CF2H addition to electron-rich alkene", "smiles": null, "role": "reactive"}, {"name": "benzylic/α-amino carbocation II (from anodic oxidation of I)", "smiles": null, "role": "reactive"}, {"name": "(E)-β-CF2H enamide product (route A, E1 elimination)", "smiles": null, "role": "transient"}, {"name": "β-hydroxy-CF2H styrene adduct (route B, H2O addition to cation)", "smiles": null, "role": "transient"}], "electron_flow": "Anode oxidizes CF2HSO2Na (1e-) to release SO2 and a CF2H radical, which adds to the electron-rich olefin to give a stabilized α-amino or benzylic radical I; I is further oxidized at the anode to carbocation II, which either undergoes E1 deprotonation (enamides, route A) or is trapped by water (styrenes, route B); 2H+ are reduced at the cathode to H2.", "rate_determining_step": null, "probe_reagents": [{"name": "cyclohexene (unactivated/non-stabilizing alkene control)", "smiles": "C1CCCCC1", "purpose": "other", "observation": "No reaction, indicating that a stabilized (α-amino or benzylic) radical I is required."}, {"name": "alkyl-substituted (non-aryl, non-enamide) alkenes", "smiles": null, "purpose": "other", "observation": "Poorly reactive (<20% yield), supporting the need for radical stabilization."}, {"name": "CF2HSO2Na (CV redox probe)", "smiles": "OS(=O)C(F)F.[Na]", "purpose": "redox_probe", "observation": "Shows an irreversible oxidation wave; enamide and styrene show no oxidation/reduction up to ~1.5 V, and mixtures with CF2HSO2Na give unchanged profiles, ruling out substrate oxidation and supporting sulfinate as the species oxidized at the anode."}], "evidence_types_used": ["cyclic_voltammetry", "other"], "evidence_strength": "medium", "notes": "Two product-forming branches share a common cation II: route A (E1 elimination) for enamides gives a single (E)-vinyl-CF2H diastereomer; route B (nucleophilic addition of H2O) for styrenes gives β-hydroxy-CF2H products. No radical trapping (e.g., TEMPO/BHT) or DFT was reported; the mechanism is supported mainly by CV and control experiments with non-stabilizing alkenes."}
